US08703805B2
Preparation of 1-(3′-methanesulfonyl-biphenyl-4-yl)-3-trifluoromethyl-5-(2-trifluoromethyl-phenyl)-1H-pyrazole
A mixture of 1-(4-bromophenyl)-3-trifluoromethyl-5-(2-trifluoromethyl-phenyl)-1H-pyrazole (135 mg, 0.31 mmol), 3-methanesulfonyl-phenylboronic acid (74 mg, 0.37 mmol), K2CO3 (0.13 g, 0.93 mmol), Cl2Pd(dppf).DCM (24 mg, 10 mol %) and H2O (0.2 mL) in dioxane (2 mL) was sparged with Argon for 5 min and then heated at 80° C. as a sealed flask. After 16 h the reaction mixture was allowed to cool to ambient temperature, filtered (Celite™) and the filter agent rinsed with EtOAc. The combined filtrates were concentrated under reduced pressure and purified by chromatography (silica, EtOAc/Hex, 0:100 to 40:60) to give the title compound (121 mg, 76%). 1H NMR (DMSO-d6): δ 8.15 (m, 1H), 8.03 (d, 1H), 7.91 (m, 2H), 7.83 (d, 2H), 7.71-7.76 (m, 3H), 7.66 (m, 1H), 7.40 (d, 2H), 7.18 (s, 1H); MS(ES): 511 [M+H]+.

reactant | 1-(4-bromophenyl)-3-trifluoromethyl-5-(2-trifluoromethyl-phenyl)-1H-pyrazole | 0.31 mmol, 135 mg | BrC1=CC=C(C=C1)N1N=C(C=C1C1=C(C=CC=C1)C(F)(F)F)C(F)(F)F | C17H9BrF6N2
reactant | 3-methanesulfonyl-phenylboronic acid | 0.37 mmol, 74 mg | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | K2CO3 | 0.93 mmol, 0.13 g | C(=O)([O-])[O-].[K+].[K+]
product | 1-(3′-methanesulfonyl-biphenyl-4-yl)-3-trifluoromethyl-5-(2-trifluoromethyl-phenyl)-1H-pyrazole | 121 mg, 76% | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)N1N=C(C=C1C1=C(C=CC=C1)C(F)(F)F)C(F)(F)F | C24H16F6N2O2S
